US07183292B2
Step A—Preparation of 8-(N-tert-Butoxycarbonyl-N-methylamino)octan-1-ol
A 1-L flask was charged with the 8-methylaminooctanol hydrochloride isopropanol solution from above and triethylamine (30.3 g, 0.30 mol), and to this mixture was added di-tert-butyl dicarbonate (48 g, 0.22 mol) in portions. The resulting mixture was stirred at room temperature for 2–5 h and then the mixture was concentrated to a volume of about 300 mL. Water (200 mL) and ethyl acetate (400 mL) were added and this mixture was stirred for 15 minutes. The organic layer was then separated and washed with water (300 mL), brine (300 mL), dried over Na2SO4 (50 g), filtered and solvent reduced under vacuum to afford the title compound as a light yellow oil. (40 g, 77% yield, ˜95% purity).

reactant | 8-methylaminooctanol hydrochloride isopropanol | C(C)(C)O.Cl.CNCCCCCCCCO
reactant | triethylamine | 0.30 mol, 30.3 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.22 mol, 48 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 8-(N-tert-Butoxycarbonyl-N-methylamino)octan-1-ol | 77% yield | C(C)(C)(C)OC(=O)N(C)CCCCCCCCO | C14H29NO3
